US07470679B2
2-(S)-(4-Acetoxymethyl-7-chloro-1H-indazol-5-ylmethyl)-succinic acid diethyl ester
Isoamyl nitrite (700 μL, 5.2 mmol), was added dropwise to an ice cold solution of 2-(S)-(2-Acetoxymethyl-4-amino-5-chloro-3-methyl-benzyl)-succinic acid diethyl ester (1.91 g, 4.8 mmol) in 5% acetic acid in tolune (81.2 mL). Mixture stirred at 0° C. for 45 minutes. Potassium acetate (1.50 g, 15.3 mmol) was added to the mixture. Reaction was stirred at room temperature for 14 hours. Mixture was quenched with water. Mixture was extracted with ethyl acetate (30 mL). Mixture was washed 2× saturated aqueous sodium bicarbonate. Organic was dried (magnesium sulfate) filtered and concentrated. Silica gel chromatography (ethyl acetate-hexanes) afforded the desired product in 80% yield as an amber oil. 1H NMR (300 MHz, CDCl3): δ=8.23 (s, 1H), 7.26 (s, 1H), 5.45 (s, 2H), 4.09 (q, J=7.0, 4H), 3.20 (dd, J1=7.32, J2=13.2, 1H), 3.10 (m, 1H), 2.97 (dd, J1=7.0, J2=13.3, 1H), 2.73 (dd, J1=8.4, J2=16.8, 1H), 2.44 (dd, J1=5.5, J2=16.8, 1H), 2.08 (s, 3H), 1.18 (m, 6H). MS m/e (M+H)+=411.0.

reactant | Isoamyl nitrite | 5.2 mmol, 700 μL | N(=O)OCCC(C)C | C5H11NO2
reactant | 2-(S)-(2-Acetoxymethyl-4-amino-5-chloro-3-methyl-benzyl)-succinic acid diethyl ester | 4.8 mmol, 1.91 g | C(C)OC([C@H](CC(=O)OCC)CC1=C(C(=C(C(=C1)Cl)N)C)COC(C)=O)=O | C19H26ClNO6
reactant | Potassium acetate | 15.3 mmol, 1.50 g | C(C)(=O)[O-].[K+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-(S)-(4-Acetoxymethyl-7-chloro-1H-indazol-5-ylmethyl)-succinic acid diethyl ester | 80% yield | C(C)OC([C@H](CC(=O)OCC)CC=1C(=C2C=NNC2=C(C1)Cl)COC(C)=O)=O | C19H23ClN2O6
